US08242133B2
A mixture of 1.0 g of 3-amino-2-hydroxy-5-trifluoromethylpyridine, 0.69 g of isonicotinic acid, 1.40 g of WSC and 7 ml of pyridine was stirred while heating at 80° C. for two hours. The reaction mixture was cooled to room temperature, and then water was added to the reaction mixture, followed by extraction with ethyl acetate three times. The combined organic layers were washed with water and a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 1.22 g of N-[2-hydroxy-5-(trifluoromethyl)pyridin-3-yl]isonicotinamide.

reactant | 3-amino-2-hydroxy-5-trifluoromethylpyridine | 1.0 g | NC=1C(=NC=C(C1)C(F)(F)F)O | C6H5F3N2O
reactant | isonicotinic acid | 0.69 g | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | WSC | 1.40 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | N-[2-hydroxy-5-(trifluoromethyl)pyridin-3-yl]isonicotinamide | 1.22 g | OC1=NC=C(C=C1NC(C1=CC=NC=C1)=O)C(F)(F)F | C12H8F3N3O2
